US06172016B2
Preparation of 3-methyl-5-cyclohexylpentanal.
To a cooled (0° C.) mixture of 3-methyl-5-cyclohexylpentanol (50 g, 0.27 mol), water (50 ml), potassium bromide (3.2 g), and 1 mol % TEMPO (0.4 g) in 150 ml of toluene was added aqueous sodium hypochlorite (12% available chlorine, 167 g), buffered to pH=9.6 with 2.4 g of sodium bicarbonate over a period of 30 minutes. The reaction mixture was warmed to room temperature and stirred for 15 minutes. The organic layer was separated and washed sequentially with 250 ml KI solution (4.4 g of KI, 18 ml of 36% HCl, diluted to 250 ml), 50 ml of 5% sodium thiosulfate, and 50 ml of saturated aqueous sodium chloride. The organic phase was dried with magnesium sulfate and roto-evaporated to remove the toluene. The residue was distilled at 80° C. and 0.5 mmHg to yield the product (40 g, 80% yield) as a clear liquid. MS (EI) m/z (relative intensity) 182 (M+).

reactant | 3-methyl-5-cyclohexylpentanol | 0.27 mol, 50 g | CC(CCO)CCC1CCCCC1 | C12H24O
reactant | potassium bromide | 3.2 g | [Br-].[K+]
reactant | sodium hypochlorite | 167 g | Cl[O-].[Na+]
reactant | sodium bicarbonate | 2.4 g | C([O-])(O)=O.[Na+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | TEMPO | 0.4 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | water | 50 ml | O | H2O
product | 3-methyl-5-cyclohexylpentanal | 40 g, 80% yield | CC(CC=O)CCC1CCCCC1 | C12H22O
